US05329002
Preparation of [6R-trans]-4-[3-carboxy-1-(2-fluoroethyl)-6,8-difluoro-1,4-dihydro-4-oxoquinolin-7-yl]-1-[[2-carboxy-8-oxo-7-[(phenoxyacetyl)amino]-5-thia-1-azabicyclo-[4.2.0]oct-2-en-3-yl]methyl]-1-methylpiperazinium iodide
Under an argon atmosphere, a mixture of 406 mg (1 mmol) of [6R-trans]-3-(acetyloxy)methyl]-8-oxo-7-[(phenoxyacetyl)amino]-5-thia-1-azabicyclo[4.2.0]-oct-2-en-2-carboxylic acid, 2 mL of dry methylene chloride, a nd 0.60 mL (3 mmol) of N-methyl-N-(trimethylsilyl)trifluoroacetamide (MSTFA) was stirred for one hour: 0.28 mL (2 mmol) of iodotrimethylsilane was then added, and the mixture stirred for 2 hours. The solution was then concentrated to dryness under reduced pressure, and the residual oil dissolved in 2 mL of acetonitrile. Five drops of anhydrous THF were added, and the mixture was stirred for 5-10 minutes. A solution prepared from 111 mg (0.3 mmol) of 6,8-difluoro-1-(2-fluoroethyl)-1,4-dihydro-7-(4-methyl-1-piperazinyl)-4-oxo-3-quinolinecarboxylic acid, 0.11 mL (0.6 mmol) of MSTFA and 1 mL of acetonitrile was added, and stirring was continued for 2 hours. The mixture was chilled in ice, and approximately 100 mg of methanol were added. The solid which precipitated was filtered, washed with acetonitrile, and dried under reduced pressure to obtain the title compound: NMR (Me2SO-d6) δ 3.15 (s, 3H, NCH3), 3.45-3.85 (m, 9H, 4 x NCH2 and CH of SCH2), 3.95 (d, 1H, J gem=16.5 Hz, CH of SCH2), 4.39 and 4.77 (AB, 2H, J gem=13 Hz, NCH2). 4.61 and 4.64 (AB, 2H, J gem=15 Hz, OCH2CO), 4.83-5.07 (m, 4H, NCH2CH2F), 5.24 (d, 1H, J=5Hz, CH), 5.82 (dd, 1H, J=5 and 7 Hz, CH), 6.95 (d, 2H, J=8 Hz, Ar), 6.97 (t, 1H, J=8 Hz, Ar), 7.29 (t, 2H, J=8 Hz), 7.96 (d, 1 H, J=12 Hz, Ar), 8.91 (s, 1H, =CH--), 9.18 (d, 1H, J=7 Hz, NH); IR (KBr) 3400, 1788, 1728, 1700, 1612, cm-1 ; mass spectrum m/z 716 (cation).

reactant | 8-oxo-7-[(phenoxyacetyl)amino]-5-thia-1-azabicyclo[4.2.0]-oct-2-en-2-carboxylic acid | O=C1C(C2SCC=C(N12)C(=O)O)NC(COC1=CC=CC=C1)=O | C15H14N2O5S
reactant | N-methyl-N-(trimethylsilyl)trifluoroacetamide | 3 mmol, 0.60 mL | CN(C(C(F)(F)F)=O)[Si](C)(C)C | C6H12F3NOSi
reactant | iodotrimethylsilane | 2 mmol, 0.28 mL | I[Si](C)(C)C | C3H9ISi
reactant | 6,8-difluoro-1-(2-fluoroethyl)-1,4-dihydro-7-(4-methyl-1-piperazinyl)-4-oxo-3-quinolinecarboxylic acid | 0.3 mmol, 111 mg | FC=1C=C2C(C(=CN(C2=C(C1N1CCN(CC1)C)F)CCF)C(=O)O)=O | C17H18F3N3O3
reactant | MSTFA | 0.6 mmol, 0.11 mL | CN(C(C(F)(F)F)=O)[Si](C)(C)C | C6H12F3NOSi
solvent | methanol | approximately 100 mg | CO | CH4O
solvent | acetonitrile | 1 mL | C(C)#N | C2H3N
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
product | [6R-trans]-4-[3-carboxy-1-(2-fluoroethyl)-6,8-difluoro-1,4-dihydro-4-oxoquinolin-7-yl]-1-[[2-carboxy-8-oxo-7-[(phenoxyacetyl)amino]-5-thia-1-azabicyclo-[4.2.0]oct-2-en-3-yl]methyl]-1-methylpiperazinium iodide | [I-].C(=O)(O)C1=CN(C2=C(C(=C(C=C2C1=O)F)N1CC[N+](CC1)(C)CC1=C(N2C([C@H]([C@H]2SC1)NC(COC1=CC=CC=C1)=O)=O)C(=O)O)F)CCF | InChI=1S/C33H32F3N5O8S.HI/c1-41(11-9-38(10-12-41)28-22(35)13-20-27(24(28)36)39(8-7-34)14-21(29(20)43)32(45)46)15-18-17-50-31-25(30(44)40(31)26(18)33(47)48)37-23(42)16-49-19-5-3-2-4-6-19;/h2-6,13-14,25,31H,7-12,15-17H2,1H3,(H2-,37,42,45,46,47,48);1H/t25-,31-;/m1./s1
